US09216999B2
1-(Piperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one
1-(1-Benzylpiperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one (341 mg, 0.697 mmol) in methanol was stirred with 5% palladium-carbon (500 mg) for one day under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hi Flash column amino type manufactured by Yamazen Corporation: chloroform/methanol=9/1/(v/v)) to give the title compound (189 mg, yield 68%).

reactant | 1-(1-Benzylpiperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | 0.697 mmol, 341 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1C=CC(C2=CN=C3C(=C12)C=CN3COCC[Si](C)(C)C)=O | C28H36N4O2Si
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | 1-(Piperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | 189 mg, yield 68% | N1CCC(CC1)N1C=CC(C2=CN=C3C(=C12)C=CN3COCC[Si](C)(C)C)=O | C21H30N4O2Si
